US08648066B2
N-{5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-2-[(phenylmethyl)amino]pyridin-3-yl}methanesulfonamide.
Prepared according to the method of example 5 by using N-{5-bromo-2-[(phenylmethyl)amino]pyridin-3-yl}methanesulfonamide (reagent preparation 39) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-D4): 8.26 (s, 1H), 8.06 (s, 1H), 7.64 (s, 1H), 7.37 to 7.08 (m, 7H), 6.94 (d, 1H), 4.59 (s, 2H), 4.57 (s, 2H), 4.20 (m, 2H), 3.85 (m, 2H), 2.91 (s, 3H), 2.67 (t, 2H), 2.36 (s, 1.59 (t, 2H), 1.21 (s, 6H), 0.82 (s, 6H); MS (EI) for C32H36N6O3S: 585 (MH+).

reactant | N-{5-bromo-2-[(phenylmethyl)amino]pyridin-3-yl}methanesulfonamide | BrC=1C=C(C(=NC1)NCC1=CC=CC=C1)NS(=O)(=O)C | C13H14BrN3O2S
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | N-{5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-2-[(phenylmethyl)amino]pyridin-3-yl}methanesulfonamide | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=NC2)NCC2=CC=CC=C2)NS(=O)(=O)C)C | C32H36N6O3S
